US05736550
To a solution of crude 4-benzyl-2-phthalimidomethylmorpholine (64 g) in ethanol (500 ml) was added hydrazine monohydrate (18 ml, 0.57 mol) and the mixture was heated under reflux for 2 hours. After cooling, 10% aqueous sodium hydroxide (200 ml) was added to dissolve insolubles and the ethanol was distilled off under reduced pressure. The aqueous layer was extracted with chloroform (200 ml×3), the combined organic layer was dried over potassium carbonate and the solvent was distilled off to give crude 2-aminomethyl-4-benzylmorpholine (42.97 g). This compound was used for the subsequent reaction without purification.

reactant | 4-benzyl-2-phthalimidomethylmorpholine | 64 g | C(C1=CC=CC=C1)N1CC(OCC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O3
reactant | hydrazine monohydrate | 0.57 mol, 18 ml | O.NN
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-aminomethyl-4-benzylmorpholine | 42.97 g | NCC1CN(CCO1)CC1=CC=CC=C1 | C12H18N2O
